US07276612B2
Synthesis of N-hydroxy-4-[2-(3-dimethylaminobenzofuran-2-ylcarbonylamino)-ethoxy]-benzamide hydrochloride
N-hydroxy-4-[2-(3-dimethylaminobenzofuran-2-ylcarbonylamino)ethoxy]-benzamide (22.7 g, 0.057 mol) was suspended in 2-propanol (220 ml). 12 M HCl (5.2 ml, 0.063 mol) was added in one portion and the resulting mixture was heated to reflux. Water (44 ml) was added dropwise until a homogenous solution was obtained. The reaction mixture was allowed to cool and crystallize overnight. After cooling below 5° C. for one h, the crystals were filtered and washed with 2-propanol before being dried in vacuo to to give the title compound (22.0 g) as a white solid.

reactant | N-hydroxy-4-[2-(3-dimethylaminobenzofuran-2-ylcarbonylamino)ethoxy]-benzamide | 0.057 mol, 22.7 g | ONC(C1=CC=C(C=C1)OCCNC(=O)C=1OC2=C(C1N(C)C)C=CC=C2)=O | C20H21N3O5
reactant | HCl | 0.063 mol, 12 M, 5.2 ml | Cl | ClH
reactant | Water | 44 ml | O | H2O
solvent | 2-propanol | 220 ml | CC(C)O | C3H8O
product | N-hydroxy-4-[2-(3-dimethylaminobenzofuran-2-ylcarbonylamino)-ethoxy]-benzamide hydrochloride | 22.0 g | Cl.ONC(C1=CC=C(C=C1)OCCNC(=O)C=1OC2=C(C1N(C)C)C=CC=C2)=O | InChI=1S/C20H21N3O5.ClH/c1-23(2)17-15-5-3-4-6-16(15)28-18(17)20(25)21-11-12-27-14-9-7-13(8-10-14)19(24)22-26;/h3-10,26H,11-12H2,1-2H3,(H,21,25)(H,22,24);1H
